US04977179
Preparation of N-[(R)-1-ethoxycarbonyl-2-(2-propylthioethylthio)ethyl]-alanine t-butyl ester (α- and β-isomers)
In 50 ml of HMPA were dissolved 12.2 g of S-2-propylthioethyl-L-cysteine ethyl ester and 11.2 g of 2-bromopropionic acid t-butyl ester. A 7.5 ml quantity of triethylamine was added to the solution and the mixture was stirred at room temperature for 40 hours. The reaction mixture was poured into ice water and the mixture was extracted with ethyl acetate. The extract was washed with water and with a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure and the residue was purified by silica gel column chromatography (a 1:3 mixture of ether and n-hexane as an eluent), giving the α-isomer of the title compound as a colorless oil from the first eluate. Yield 2.58 g.

reactant | S-2-propylthioethyl-L-cysteine ethyl ester | 12.2 g | C(C)OC([C@@H](N)CSCCSC(C)C)=O | C10H21NO2S2
reactant | 2-bromopropionic acid t-butyl ester | 11.2 g | C(C)(C)(C)OC(C(C)Br)=O | C7H13BrO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | HMPA | 50 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | N-[(R)-1-ethoxycarbonyl-2-(2-propylthioethylthio)ethyl]-alanine t-butyl ester | C(C)(C)(C)OC([C@@H](N[C@@H](CSCCSCCC)C(=O)OCC)C)=O | C17H33NO4S2
